US07288659B2
methyl 3,5-difluoromandelate
2 ml of sulfuric acid at 95% by mass are added to 2 g of 3,5-difluoromandelic acid in solution in 25 ml of methanol, and the mixture is kept under reflux for 6 hours. The medium is concentrated, the residue is taken up in ethyl acetate and washed with a sodium hydroxide solution (0.1 N). The organic phase is dried over anhydrous sodium sulfate and 2 g of oil are obtained.

reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3,5-difluoromandelic acid | 2 g | FC=1C=C(C(C(=O)O)O)C=C(C1)F | C8H6F2O3
reactant | methanol | 25 ml | CO | CH4O
product | methyl 3,5-difluoromandelate | FC=1C=C(C(C(=O)OC)O)C=C(C1)F | C9H8F2O3
